Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
pneumonia vaccine booster
 
Attending: ___.
 
Chief Complaint:
feeling unwell
 
Major Surgical or Invasive Procedure:
Pacemaker placement ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of asthma, thyroid
nodules, cardiomyopathy with known LBBB, who presented to the ED
with bradycardia. He states that for the past few days he has
felt "unwell," noting that he normally is very active, but has
not been able to do his normal activities. He is unable to
exercise at his normal level; for instance, he was unable to 
walk
up a hill with his wife which is something he usually is able to
do. The night prior to presentation, he lost his appetite which
prompted him to present to urgent care. In urgent care, he was
noted to have a HR in the ___ and was sent to the ED at ___
for further evaluation. He denies lightheadedness, dizziness,
vision changes, chest pain, palpitations, SOB, N/V. 

On arrival to the ED, initial vitals were:
T 99, BP 141/71, HR 30, O2 sat 94% RA

Exam was unremarkable.

Labs were notable for:
Trop <0.01
proBNP: 475
Lactate: 1.5
Cr: 0.9
K: 5.5

A chest xray was done that was unremarkable.

He was seen by EP, who noted that the patient has advanced
multi-level AV block with hemodynamic stability. They 
recommended
admission to the ___ service with plan for likely PPM
placement ___.

On arrival to the floor, he endorses the story as above.
 
REVIEW OF SYSTEMS:  per HPI; 10-point ROS was otherwise 
negative.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- None
2. CARDIAC HISTORY  
- Cardiomyopathy with known LBBB
3. OTHER PAST MEDICAL HISTORY 
- Asthma
- History of basal cell carcinoma
- Allergic rhinitis
- Insomnia
- Thyroid nodules
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.4, BP 152/86, HR 45, O2 sat 98% RA
GENERAL: well-appearing elderly man, thin, sitting up in bed
HEENT: MMM 
NECK: JVP not elevated 
CARDIAC: impressively bradycardic, no m/g/r
LUNGS: CTAB in posterior fields
ABDOMEN: soft, nontender, nondistended
EXTREMITIES: no ___ edema
NEURO: alert and oriented x3, PERRL, moving all extremities with
purpose

DISCHARGE PHYSICAL EXAM:
========================
___ ___ Temp: 98.5 PO BP: 138/74 R Lying HR: 60 RR: 18 O2
sat: 93% O2 delivery: Ra 
Fluid Balance (last updated ___ @ 350) 
  Last 8 hours  Total cumulative -800ml
    IN: Total 0ml
    OUT:  Total 800ml, Urine Amt 800ml
  Last 24 hours  Total cumulative -260ml
    IN: Total 540ml, PO Amt 540ml
    OUT:  Total 800ml, Urine Amt 800ml   
GENERAL: well-appearing elderly man, thin, sitting in bed
HEENT: MMM 
NECK: JVP not elevated 
CARDIAC: RRR, no m/g/r
LUNGS: CTAB in posterior fields
ABDOMEN: soft, nontender, nondistended
EXTREMITIES: no ___ edema
 
Pertinent Results:
ADMISSION LABS:
___ 10:54AM BLOOD WBC-6.6 RBC-4.75 Hgb-14.7 Hct-43.9 MCV-92 
MCH-30.9 MCHC-33.5 RDW-12.8 RDWSD-43.4 Plt ___
___ 10:54AM BLOOD Neuts-62.1 ___ Monos-11.0 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-4.10 AbsLymp-1.60 AbsMono-0.73 
AbsEos-0.12 AbsBaso-0.04
___ 10:54AM BLOOD ___ PTT-27.1 ___
___ 10:54AM BLOOD Plt ___
___ 10:54AM BLOOD Glucose-81 UreaN-18 Creat-1.0 Na-138 
K-5.5* Cl-103 HCO3-26 AnGap-9*
___ 10:54AM BLOOD proBNP-475
___ 10:54AM BLOOD cTropnT-<0.01
___ 10:54AM BLOOD Calcium-9.3 Phos-2.6* Mg-2.3
___ 10:54AM BLOOD TSH-2.0
___ 10:54AM BLOOD T4-8.8
___ 10:54AM BLOOD Cortsol-10.7
___ 10:59AM BLOOD Lactate-1.5 Creat-0.9 K-5.0

PPM INTERROGATION ___:
1. Pacer function normal with acceptable lead measurements and
battery status
2. Programming changes: None. 
3. Follow-up:
Device clinic in 1 week at ___ card___. 
F/u with Dr. ___ in ___ weeks. 

CXR ___:
In comparison with the study of ___, there is an placement 
of a dual 
channel ppm via left subclavian approach, with leads extending 
to the right atrium and right ventricle.  No evidence of post 
procedure pneumothorax. Little change in the appearance of the 
heart and lungs.  Hyperexpansion of the lungs is consistent with 
chronic obstructive pulmonary disease. 

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-8.4 RBC-4.80 Hgb-14.9 Hct-45.2 MCV-94 
MCH-31.0 MCHC-33.0 RDW-12.9 RDWSD-44.3 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-88 UreaN-22* Creat-1.0 Na-141 
K-4.4 Cl-105 HCO3-24 AnGap-12
___:00AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.2
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] He will require a device check with ___ cardiology in 1 
week.
[ ] He needs to follow-up with Dr. ___ in ___ EP in ___ 
weeks.
[ ] Lyme titer is pending, this should be followed up by PCP in 
case it contributed to heart block.

# CODE: full, presumed
# CONTACT/HCP: PEPP,ADRIA 
 Relationship: WIFE (HCP)
 Phone: ___ 
 Other Phone: ___

SUMMARY:
========
In summary, this is a ___ year old man with history of asthma, 
thyroid nodules, cardiomyopathy with known LBBB, who presented 
to the ED with generalized feeling of unwell, found to be 
bradycardic and in advanced multi-level AV block with 
hemodynamic stability. He underwent uneventful pacemaker 
placement on ___ and was discharged home on ___ with close 
follow-up.

ACTIVE ISSUES:
==============
#AV block
#Symptomatic bradycardia
He was admitted with 2:1 AV block with rates in the ___ 
which progressed to complete heart block in the evening of 
___ with hemodynamic stability. This heart block was thought 
to be in the setting of idiopathic fibrosis due to age. Lyme 
titer was also checked. He underwent pacemaker placement with 
electrophysiology on ___. His device was interrogated the 
morning of ___ with normal function. He will need follow up 
with EP 1 week post-discharge for device interrogation as well 
as ___ weeks post-discharge.

CHRONIC ISSUES:
===============
#Asthma
- Continued home advair
- Continued home albuterol PRN

#Cardiomyopathy
- Continued home losartan 

GREATER THAN 30 MINUTES WAS SPENT ON DISCHARGE PLANNING
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing  
2.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
3.  Losartan Potassium 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Complete heart block
Unspecified cardiomyopathy
Left bundle branch block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY DID YOU COME TO THE HOSPITAL?
- You were feeling overall unwell and went to urgent care where 
they found your heart rate to be very slow.

WHAT HAPPENED WHILE YOU WERE HERE?
- We did an EKG that continued to show your heart rate was very 
slow.
- We put a pacemaker inside your chest to stimulate your heart 
to beat at a faster rate than it was beating on its own.

WHAT TO DO WHEN YOU LEAVE?
- Continue to take your regular medicines and go to all your 
follow-up appointments.
- If you feel unwell again and are unsure if you should come 
back to the hospital, you can call ___ to speak with a 
nurse practitioner or doctor.

Best wishes,
Your ___ team
 
Followup Instructions:
___